US09169254B2
Triethylamine (0.28 mL, 2.00 mmol) and bromoethanol (0.14 mL, 1.98 mmol) were added to a solution of 3-bromo-4-methyl-phenylamine (240 mg, 1.29 mmol) in toluene (2 ml). The mixture was stirred at 100° C. overnight and H2O was then added, followed by extraction with AcOEt (×2). The organic layers were combined and sequentially washed with H2O and saturated brine, and then dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane/AcOEt) to give 2-(3-bromo-4-methyl-phenylamino)-ethanol (185 mg, 62%).

reactant | Triethylamine | 2.00 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | bromoethanol | 1.98 mmol, 0.14 mL | BrC(C)O | C2H5BrO
reactant | 3-bromo-4-methyl-phenylamine | 1.29 mmol, 240 mg | BrC=1C=C(C=CC1C)N | C7H8BrN
reactant | H2O | O | H2O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-bromo-4-methyl-phenylamino)-ethanol | 185 mg, 62% | BrC=1C=C(C=CC1C)NCCO | C9H12BrNO
